US07906537B2
(2-Hydroxy-4-nitrophenyl)-carbamic acid ethyl ester
(2-Methoxy-4-nitrophenyl)-carbamic acid ethyl ester (2.15 g) was dispensed in 1,2-dichloroethane (20 mL) and cooled to 0° C. Boron tribromide (2.0 mL) in 1,2-dichloroethane (10 mL) was added dropwise. The reaction mixture was stirred 10 minutes at 0° C. and 30 minutes at room temperature. The mixture was again cooled to 0° C., and water (10 mL) was added carefully. The reaction mixture was neutralised with saturated aqueous sodium bicarbonate and aqueous hydrochloric acid (5M). The resulting mixture was extracted with ethyl acetate (3×100 mL). The combined organic phase was washed with water (2×100 mL) and brine (100 mL), dried over magnesium sulfate, filtered, and evaporated in vacuo to yield the title compound as brownish solid (1.96 g, 97%).

reactant | (2-Methoxy-4-nitrophenyl)-carbamic acid ethyl ester | 2.15 g | C(C)OC(NC1=C(C=C(C=C1)[N+](=O)[O-])OC)=O | C10H12N2O5
reactant | Boron tribromide | 2.0 mL | B(Br)(Br)Br | BBr3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | hydrochloric acid | 5M | Cl | ClH
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
solvent | water | 10 mL | O | H2O
product | (2-Hydroxy-4-nitrophenyl)-carbamic acid ethyl ester | 1.96 g, 97% | C(C)OC(NC1=C(C=C(C=C1)[N+](=O)[O-])O)=O | C9H10N2O5
